US08536169B2
N-[6-(1H-Indol-4-yl)-1H-indazol-4-yl]pyrazolo[1,5-a]pyridine-2-carboxamide
Pyrazolo[1,5-a]pyridine-2-carboxylic acid (27 mg, 0.166 mmol) was treated with anhydrous THF (2 ml) and then 1-chloro-N,N, 2-trimethylpropenylamine (0.026 ml, 0.20 mmol). The reaction was stirred at room temperature under nitrogen for 2 hrs. The reaction was then treated with anhydrous DIPEA (0.131 ml, 0.753 mmol) and 2 ml of solution of 6-(1H-indol-4-yl)-2-(tetrahydro-2H-pyran-2-yl)-2H-indazol-4-amine (750 mg, 2.26 mmol) in THF (30 ml). The reaction was then stirred at room temperature under nitrogen for 69 hrs. The solvent was blown-off under a stream of nitrogen, dissolved in methanol (3 ml) and then solvent removed under reduced pressure. The crude reaction mixture was dissolved in methanol (5 ml), treated with Macroporous Tosic Acid (4.45 mmol/g, 102 mg, 0.45 mmol), stirred at room temperature for 17 hrs and then treated with 0.88 ammonia (0.5 ml), stirred for 30 minutes and then filtered. The solvent was removed under reduced pressure and then the residue purified by Mass Directed Automated Preparative HPLC (Method B) to give the title compound.

reactant | Pyrazolo[1,5-a]pyridine-2-carboxylic acid | 0.166 mmol, 27 mg | N1=C(C=C2N1C=CC=C2)C(=O)O | C8H6N2O2
reactant | 1-chloro-N,N, 2-trimethylpropenylamine | 0.20 mmol, 0.026 ml | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | DIPEA | 0.753 mmol, 0.131 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 6-(1H-indol-4-yl)-2-(tetrahydro-2H-pyran-2-yl)-2H-indazol-4-amine | 2.26 mmol, 750 mg | N1C=CC2=C(C=CC=C12)C=1C=C(C2=CN(N=C2C1)C1OCCCC1)N | C20H20N4O
reactant | Tosic Acid | 0.45 mmol, 102 mg | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
reactant | ammonia | 0.5 ml | N | H3N
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | methanol | 3 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | N-[6-(1H-Indol-4-yl)-1H-indazol-4-yl]pyrazolo[1,5-a]pyridine-2-carboxamide | N1C=CC2=C(C=CC=C12)C1=CC(=C2C=NNC2=C1)NC(=O)C1=NN2C(C=CC=C2)=C1 | C23H16N6O
